US03997603
2,5-diisopropyl-4-trifluoromethylbenzenesulfonamide
A mixture of ammonia, 25 parts, and 2,5-diisopropyl-4-trifluoromethylbenzenesulfonyl fluoride, 7 parts, is heated for 4 hours at 100° in a Hastelloy-lined bomb. After removal of the ammonia, the crude product is stirred with water, filtered and dried. Pure product, m.p. 171°-174°, is obtained after vacuum sublimation.

reactant | ammonia | N | H3N
reactant | 2,5-diisopropyl-4-trifluoromethylbenzenesulfonyl fluoride | C(C)(C)C1=C(C=C(C(=C1)C(F)(F)F)C(C)C)S(=O)(=O)F | C13H16F4O2S
product | 2,5-diisopropyl-4-trifluoromethylbenzenesulfonamide | C(C)(C)C1=C(C=C(C(=C1)C(F)(F)F)C(C)C)S(=O)(=O)N | C13H18F3NO2S
